US05480394
The procedure of Example 2 was repeated except that the fructose was replaced with sodium 4-hydroxybutyrate (manufactured by Aldrich Corporation) to produce 1.2 g of 3-hydroxybutyrate-4-hydroxybutyrate copolymer (comprising 20% by mole of 4-hydroxybutyrate unit) having a number average molecular weight of 467,000. The thus produced copolymer product was added to a 100 ml solution comprising 1 volume of aqueous solution of sodium hypochroride (manufactured by Wako Pharmaceutical K.K.) and 1 volume of distilled water, and the suspension was heated to 50° C. for 2 hours. The resulting product had a number average molecular weight of 182,000.

reactant | fructose | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | sodium 4-hydroxybutyrate | OCCCC(=O)[O-].[Na+]
product | 3-hydroxybutyrate 4-hydroxybutyrate | 1.2 g, 20% | OC(CC(=O)[O-])C.OCCCC(=O)[O-] | InChI=1S/2C4H8O3/c1-3(5)2-4(6)7;5-3-1-2-4(6)7/h3,5H,2H2,1H3,(H,6,7);5H,1-3H2,(H,6,7)/p-2
